US04141982
50 ml of concentrated sulphuric acid are treated, while stirring, with 9.9 g of 4-chloro-valerophenone, while cooling with an ice/sodium chloride mixture. The bulk of the product dissolves, a slightly exothermic reaction taking place, and a yellow suspension forms, which is treated, while stirring vigorously and at a temperature of -10° to -5°, with a mixture of 20 ml of concentrated sulphur acid and 10.4 ml of concentrated nitric acid (d = 1.52), in the course of 10 minutes. After a reaction time of five minutes, the mixture is poured onto ice and the aqueous mixture is extracted with chloroform. The organic extract is washed once with an aqueous solution of sodium carbonate and with water, dried over sodium sulphate and filtered through silica gel. 4-Chloro-3-nitro-valerophenone is obtained as an oily residue after evaporating the filtrate.

reactant | sulphuric acid | 50 ml | S(O)(O)(=O)=O | H2O4S
reactant | 4-chloro-valerophenone | 9.9 g | ClC(CCC(=O)C1=CC=CC=C1)C | C11H13ClO
reactant | nitric acid | 10.4 ml | [N+](=O)(O)[O-] | HNO3
solvent | sulphur | 20 ml | [S] | S
product | 4-Chloro-3-nitro-valerophenone | ClC(C(CC(=O)C1=CC=CC=C1)[N+](=O)[O-])C | C11H12ClNO3
